US07816371B2
b. (R)-2-(5-Nitro-1-oxoisoquinolin-2(1H)-yl)propanoic acid
(R)-Methyl 2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanoate (5.2 g, 0.019 mol) and lithium iodide (10 g, 0.08 mol) were refluxed in ethyl acetate (200 mL, 2 mol) for 64 hours. The solid was filtered, and the filtrate was concentrated and gave a brown solid.

reactant | (R)-Methyl 2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanoate | 0.019 mol, 5.2 g | [N+](=O)([O-])C1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)OC)C | C13H12N2O5
reactant | lithium iodide | 0.08 mol, 10 g | [I-].[Li+]
reactant | ethyl acetate | 2 mol, 200 mL | C(C)(=O)OCC | C4H8O2
product | (R)-2-(5-Nitro-1-oxoisoquinolin-2(1H)-yl)propanoic acid | [N+](=O)([O-])C1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)O)C | C12H10N2O5
